US04539423
To the same reaction vessel as in Example 9 were charged bistriphenylphosphinedibromopalladium (0.198 g, 0.25 mmole), stannous chloride (0.095 g, 0.5 mmole), tetra-n-butylammonium chloride (0.139 g, 0.5 mmole) and n-amyl nitrite (70 ml, 474.4 mmoles), together with n-heptane (150 ml) and N-methylpyrrolidone (50 ml). Then, ketene, carbon monooxide and nitrogen were introduced to the mixture at the rate of 10.1 ml/min (0.45 mmole/min), 300 ml/min and 100 ml/min, respectively, and the reaction was effected at 90° C. for 5 hours. The reaction product was analyzed by gas chromatography, revealing that di-n-amyl malonate (82.3 mmoles, 60.7%) and n-amyl acetate (25.5 mmoles, 18.8%) were obtained.

reactant | n-amyl nitrite | 474.4 mmoles, 70 ml | CCCCCON=O | C5H11NO2
reactant | n-heptane | 150 ml | CCCCCCC | C7H16
reactant | ketene | C=C=O | C2H2O
reactant | carbon monooxide | [C]=O | CO
catalyst | tetra-n-butylammonium chloride | 0.5 mmole, 0.139 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | n-amyl acetate | 25.5 mmoles, 18.8% | CCCCCOC(=O)C | C7H14O2
